US09422281B2
A screw-cap vial equipped with a magnetic stir bar was charged with a solution of (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(2-fluorophenyl)methanethione (0.021 g, 0.057 mmol) in dimethylsulfoxide (0.5 mL) and hydroxylamine (50% in water, 0.035 mL, 0.575 mmol). The vial was capped, and the solution heated to 100° C. for 90 min. Heating was increased to 150° C. for 3 h, and then the solution was stirred at rt overnight. Additional hydroxylamine (50% in water, 0.035 mL, 0.575 mmol) was added and heating resumed at 150° C. for 5 h. Potassium carbonate (ca. 10-15 mg) was added and heating resumed at 100° C. for 5 h. The mixture was diluted with water (1 mL) and extracted with dichloromethane. The dichloromethane extract was washed with 5% aqueous sodium chloride solution (1 mL) and concentrated. The crude product was purified by preparative thin layer chromatography (1×1000 micron plate, eluting with 4:1 hexanes-ethyl acetate). The major band was isolated to afford (S)-3-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)benzo[d]isoxazole (0.010 g, 51%). MS (ESI, pos. ion) m/z 344, 346 [M+1].

reactant | (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(2-fluorophenyl)methanethione | 0.057 mmol, 0.021 g | BrC1=CC=C2N[C@H](CN(C2=C1)C(=S)C1=C(C=CC=C1)F)C | C16H14BrFN2S
reactant | hydroxylamine | 0.575 mmol, 0.035 mL | NO | H3NO
reactant | hydroxylamine | 0.575 mmol, 0.035 mL | NO | H3NO
reactant | Potassium carbonate | ca. 10-15 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | water | 1 mL | O | H2O
product | (S)-3-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)benzo[d]isoxazole | 0.010 g, 51% | BrC1=CC=C2N[C@H](CN(C2=C1)C1=NOC2=C1C=CC=C2)C | C16H14BrN3O
